US08629160B2
2-Bromo-1-(4-hydroxyphenyl)ethanone (19.9 mg, 0.09 mmol) was added to a solution of methyl 3-(2-oxo-1-phenyl-2-((R)-quinuclidin-3-yloxy)ethylamino)thiophene-2-carboxylate (C11) (37 mg, 0.09 mmol) in acetonitrile (2 ml). The reaction mixture was stirred at room temperature overnight, and then Et2O (1 ml) was added and the product was collected by suction filtration to obtain (3R)-1-(2-(4-hydroxyphenyl)-2-oxoethyl)-3-(2-(2-(methoxycarbonyl)thiophen-3-ylamino)-2-phenylacetoxy)-1-azoniabicyclo[2.2.2]octane bromide (36.7 mg, 64.5% yield).

reactant | 2-Bromo-1-(4-hydroxyphenyl)ethanone | 0.09 mmol, 19.9 mg | BrCC(=O)C1=CC=C(C=C1)O | C8H7BrO2
reactant | methyl 3-(2-oxo-1-phenyl-2-((R)-quinuclidin-3-yloxy)ethylamino)thiophene-2-carboxylate | 0.09 mmol, 37 mg | O=C(C(C1=CC=CC=C1)NC1=C(SC=C1)C(=O)OC)O[C@H]1CN2CCC1CC2 | C21H24N2O4S
reactant | Et2O | 1 ml | CCOCC | C4H10O
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | (3R)-1-(2-(4-hydroxyphenyl)-2-oxoethyl)-3-(2-(2-(methoxycarbonyl)thiophen-3-ylamino)-2-phenylacetoxy)-1-azoniabicyclo[2.2.2]octane bromide | 36.7 mg, 64.5% yield | [Br-].OC1=CC=C(C=C1)C(C[N+]12C[C@@H](C(CC1)CC2)OC(C(C2=CC=CC=C2)NC2=C(SC=C2)C(=O)OC)=O)=O | InChI=1S/C29H30N2O6S.BrH/c1-36-29(35)27-23(13-16-38-27)30-26(21-5-3-2-4-6-21)28(34)37-25-18-31(14-11-20(25)12-15-31)17-24(33)19-7-9-22(32)10-8-19;/h2-10,13,16,20,25-26H,11-12,14-15,17-18H2,1H3,(H-,30,32,33,35);1H/t20?,25-,26?,31?;/m0./s1
